US07960552B2
Thionyl chloride (123 mL, 202 g, 1.7 mol) was added dropwise during 30 min to a stirred suspension of benzotriazole (202 g, 1.7 mol) in dichloromethane (550 mL) at room temperature under N2. The resulting yellow solution was transferred to an addition funnel and added dropwise during 1 hour to a stirred solution of [3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methanol (372 g, 1.3 mol, Maloney, P. R., et al., 2000 J. Med. Chem. 43:2971-2974) in dichloromethane (975 mL). The reaction temperature gradually rose to a maximum of 28° C. After 1 hr the resulting suspension was filtered to remove the benzotriazole hydrochloride. The filtrate was washed with water (2×1 L), with 1 N NaOH (1 L), with water (1 L), dried over anhydrous Na2SO4, filtered and concentrated to yield 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole as a pale yellow oil (413 g, 80%). 1H NMR (400 MHz, DMSO-d6): 7.64 (m, 3H), 4.47 (s, 2H), 3.45 (m, 1H), 1.31 (d, J=7 Hz, 6H). ES-LCMS m/z 305 (M+H)+.

reactant | Thionyl chloride | 1.7 mol, 123 mL, 202 g | S(=O)(Cl)Cl | Cl2OS
reactant | benzotriazole | 1.7 mol, 202 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | [3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methanol | 1.3 mol, 372 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
solvent | dichloromethane | 550 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 975 mL | ClCCl | CH2Cl2
product | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 413 g, 80% | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
